US07067664B1
3-[4-(1-Ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl-propionic acid
Hydrolysis of 2-[4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-ylmethyl]-malonic acid dimethyl ester with phosphoic/water at reflux to give the title compound as a white foam. Anal. For C23H32N2O3. ¾H2O calc.: C, 69.40; H, 8.48; N, 7.04; found: C, 69.17; H, 8.62; N, 6.90.

reactant | 2-[4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-ylmethyl]-malonic acid dimethyl ester | COC(C(C(=O)OC)CC=1C(=NC(=CC1OC(CC)CC)C)NC1=C(C=C(C=C1C)C)C)=O | C26H36N2O5
reactant | water | O | H2O
product | 4-(1-Ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl-propionic acid | C(C)C(CC)OC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)C(C(=O)O)C | C23H32N2O3
